US07163936B2
To a solution of tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}-5-hydroxypentanoate (15.05 g, 46.5 mmol) in dichloromethane (150 ml) were added under the ice cooling 4-dimethylaminopyridine (120 mg, 1 mmol), diisopropylethylamine (26 ml, 150 mmol) and chloromethyl methyl ether (12 ml, 150 mmol), and the mixture was raised to the room temperature. Ten hours later the mixture was adjusted to pH about 3 with ice water and 1N hydrochloric acid under cooling in an ice bath. After adding a saturated aqueous sodium chloride solution and separating the mixture with a separating funnel, the organic layer was washed once with water and twice with a saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate and the organic solvent was removed under reduced pressure to give tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}-5-(methoxymethoxy)pentanoate (16.87 g, 99%).

reactant | tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}-5-hydroxypentanoate | 46.5 mmol, 15.05 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)CO | C17H25NO5
reactant | diisopropylethylamine | 150 mmol, 26 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 150 mmol, 12 ml | COCCl | C2H5ClO
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1 mmol, 120 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}-5-(methoxymethoxy)pentanoate | 16.87 g, 99% | C(C1=CC=CC=C1)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)COCOC | C19H29NO6
